US09193869B2
Squaric Acid/Distearylperimidine NIR Absorbing Dye
To a 100 ml round bottom flask equipped with Teflon coated stir magnetic and a condenser was charged 2.0 g squaric acid (MW=114), 50 g toluene and 50 g butanol. The round bottom flask was placed in an 80° C. to 90° C. oil bath. After the squaric acid dissolved, 22.3 g distearylperimidine (MW=635) was added. The reaction progress was monitored by uv-vis spectrum, the results of which are illustrated in FIG. 1. The peak at about 811 nm grew and the peak at 355 decreased. After 3.5 hours the absorbance ratio at 811 nm to 355 nm reached the max 11.62. The reaction mixture was quenched in about 400 ml methanol after 5 hrs of reaction. Sticky solids came out and were filtered and rinsed with more methanol three times. The very sticky solids were dissolved in THF and subsequently dried. The yield was about 78%

reactant | squaric acid | 2.0 g | C1(=C(C(=O)C1=O)O)O | C4H2O4
reactant | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
reactant | distearylperimidine | 22.3 g | C(CCCCCCCCCCCCCCCCC)C1=C2N=C(NC=3C=CC=C(C=C1)C32)CCCCCCCCCCCCCCCCCC | C47H80N2
solvent | butanol | 50 g | C(CCC)O | C4H10O
product | Squaric Acid Distearylperimidine | yield was about 78% | C1(=C(C(=O)C1=O)O)O.C(CCCCCCCCCCCCCCCCC)C1=C2N=C(NC=3C=CC=C(C=C1)C32)CCCCCCCCCCCCCCCCCC | InChI=1S/C47H80N2.C4H2O4/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-36-43-41-40-42-37-35-38-44-46(42)47(43)49-45(48-44)39-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2;5-1-2(6)4(8)3(1)7/h35,37-38,40-41H,3-34,36,39H2,1-2H3,(H,48,49);5-6H
